US08293735B2
4-[6-(4-Cyclopropyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[2,3-d]pyrimidin-2-yl]-1H-indole-6-carbonitrile
A mixture of 2-chloro-6-(4-cyclopropyl-piperazin-1ylmethyl)-4-morpholin-4-yl-thieno[2,3-d]pyrimidine-6-carbaldehyde (217 mg), 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-H-indole-6-carbonitrile (256 mg), bis(triphenylphosphine)palladium chloride (19 mg), and sodium carbonate (175 mg) in water (1.7 mL) and acetonitrile (6 mL) was heated in a microwave reactor at 140° C. for 1 hour. The reaction mixture was cooled, diluted with dichloromethane (20 mL), washed with water, dried (MgSO4) and the solvents removed in vacuo to give, after purification using flash chromatography, the title compound (59 mg) as a white solid.

reactant | 2-chloro-6-(4-cyclopropyl-piperazin-1ylmethyl)-4-morpholin-4-yl-thieno[2,3-d]pyrimidine-6-carbaldehyde | 217 mg | ClC=1N=C(C2=C(N1)SC(C2)(C=O)CN2CCN(CC2)C2CC2)N2CCOCC2 | C19H26ClN5O2S
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-H-indole-6-carbonitrile | 256 mg | CC1(OB(OC1(C)C)C1=C2C=CNC2=CC(=C1)C#N)C | C15H17BN2O2
reactant | sodium carbonate | 175 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 1.7 mL | O | H2O
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | bis(triphenylphosphine)palladium chloride | 19 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-[6-(4-Cyclopropyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[2,3-d]pyrimidin-2-yl]-1H-indole-6-carbonitrile | C1(CC1)N1CCN(CC1)CC1=CC2=C(N=C(N=C2N2CCOCC2)C2=C3C=CNC3=CC(=C2)C#N)S1 | C27H29N7OS
